US07205306B2
4-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-2-methylpyrimidine (1.15 g, 3.14 mmol) and pyridinium tribromide (1.16 g, 3.63 mmol) were stirred in dry dichloromethane (20 mL) at 20° C. for 16 h. The reaction mixture was quenched with saturated aqueous Na2S2O5 (6 mL) and diluted with EtOAc (200 mL). The EtOAc was washed with water, brine, dried and stripped in vacuo. The residue was chromatographed on silica gel using 20% EtOAc/hexanes to give the product, 5-bromo-4-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-2-methylpyrimidine (1.30 g, 93% yield).

reactant | 4-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-2-methylpyrimidine | 3.14 mmol, 1.15 g | ClC=1C=C2CCN(C2=C(C1)Cl)C1=NC(=NC(=C1)NC(CC)CC)C | C18H22Cl2N4
reactant | pyridinium tribromide | 3.63 mmol, 1.16 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-bromo-4-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-2-methylpyrimidine | 1.30 g, 93% yield | BrC=1C(=NC(=NC1NC(CC)CC)C)N1CCC2=CC(=CC(=C12)Cl)Cl | C18H21BrCl2N4
